US07087576B2
5-[4-(4-(2-(2-t-Butoxycarbonylaminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione
A solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride (2 g, 4.6 mmol) and 2-t-butoxycarbonylamino propionic acid (0.87 g, 4.6 mmol) in dimethyl formamide (10 ml) was stirred for 1 h at 0° C. N,N′-Dicyclohexylcarbodiimide (1.139 g, 5.5 mmol) was added to this solution and stirring was continued for 2 h at ambient temperature. Water (200 ml) was added to the reaction mixture, stirred for 15 minutes, ethyl acetate (250 ml) added and stirring was continued for another 15 minutes. The organic layer was separated and washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated to furnish the crude compound which was purified by column chromatography (0.95 g, yield 36.3%).

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride | 4.6 mmol, 2 g | Cl.NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | 2-t-butoxycarbonylamino propionic acid | 4.6 mmol, 0.87 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | N,N′-Dicyclohexylcarbodiimide | 5.5 mmol, 1.139 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 200 ml | O | H2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-(4-(2-(2-t-Butoxycarbonylaminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione | yield 36.3% | C(C)(C)(C)OC(=O)NC(C(=O)NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)C | C28H31N3O8S
